US04547518
N-(4,5-dihydro-1-ethyl-1H-pyrazol-4-yl)-5-chloro-4-(dimethylamino)-2-methoxybenzamide
In accordance with the procedure of Example 2, 5-chloro-4-(dimethylamino)-2-methoxy-N-(1,2-diethyl-4-pyrazolidinyl)benzamide is reacted with sodium hypochlorite and the product is isolated.

reactant | 5-chloro-4-(dimethylamino)-2-methoxy-N-(1,2-diethyl-4-pyrazolidinyl)benzamide | ClC=1C(=CC(=C(C(=O)NC2CN(N(C2)CC)CC)C1)OC)N(C)C | C17H27ClN4O2
reactant | sodium hypochlorite | Cl[O-].[Na+]
product | N-(4,5-dihydro-1-ethyl-1H-pyrazol-4-yl)-5-chloro-4-(dimethylamino)-2-methoxybenzamide | C(C)N1N=CC(C1)NC(C1=C(C=C(C(=C1)Cl)N(C)C)OC)=O | C15H21ClN4O2
